* Tube models — Norman Koren generalised triode form
* Reference: http://www.normankoren.com/Audio/Tubemodspice_article.html
*
* Pin order: P (plate)  G (grid)  K (cathode)
*
* These parameters approximate published 12AX7 / 12AU7 curves; for
* production work, fit the parameters to your own measurements.

.SUBCKT 12AX7 P G K
+ PARAMS: MU=100 EX=1.4 KG1=600 KP=600 KVB=300 RGI=2000
+         CCG=2.3P CGP=2.4P CCP=0.9P
E1 7 0 VALUE={V(P,K)/KP*LN(1+EXP(KP*(1/MU+V(G,K)/SQRT(KVB+V(P,K)*V(P,K)))))}
RE1 7 0 1G
G1 P K VALUE={(PWR(V(7),EX)+SGN(V(7))*PWR(V(7),EX))/KG1}
RCP P K 1G
C1 G P {CGP}
C2 G K {CCG}
C3 P K {CCP}
R1 G 7 {RGI}
.ENDS 12AX7

.SUBCKT 12AU7 P G K
+ PARAMS: MU=17 EX=1.4 KG1=420 KP=300 KVB=300 RGI=2000
+         CCG=1.6P CGP=1.5P CCP=0.5P
E1 7 0 VALUE={V(P,K)/KP*LN(1+EXP(KP*(1/MU+V(G,K)/SQRT(KVB+V(P,K)*V(P,K)))))}
RE1 7 0 1G
G1 P K VALUE={(PWR(V(7),EX)+SGN(V(7))*PWR(V(7),EX))/KG1}
RCP P K 1G
C1 G P {CGP}
C2 G K {CCG}
C3 P K {CCP}
R1 G 7 {RGI}
.ENDS 12AU7
